US04572912
20.4 g of 6-hydroxy-2,5,7,8-tetramethyl-2-(4-nitrophenoxymethyl)chroman were dissolved in 60 ml of pyridine, and, while stirring, 30 ml of acetic anhydride were added dropwise at 10° C. The mixture was gradually restored to room temperature and then reacted for 1 hour at 30° C. The reaction mixture was cooled and then poured into ice-water and extracted with a 1:1 by volume mixture of benzene and cyclohexane. The extract was washed well with a 2% w/v aqueous solution of hydrochloric acid and then with water, after which it was dried over anhydrous sodium sulfate. The solvent was removed by evaporation under reduced pressure, giving the desired 6-acetoxy-2,5,7,8-tetramethyl-2-(4-nitrophenoxymethyl)chroman. Rf value on thin layer chromatography: 0.64 [silica gel; developing solvent; benzene and ethyl acetate=10:1 by volume]

reactant | 6-hydroxy-2,5,7,8-tetramethyl-2-(4-nitrophenoxymethyl)chroman | 20.4 g | OC=1C(=C2CCC(OC2=C(C1C)C)(COC1=CC=C(C=C1)[N+](=O)[O-])C)C | C20H23NO5
reactant | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | 6-acetoxy-2,5,7,8-tetramethyl-2-(4-nitrophenoxymethyl)chroman | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)(COC1=CC=C(C=C1)[N+](=O)[O-])C)C | C22H25NO6
